US07691855B2
The solution of 150 mg (0.515 mMol) of 2-chloro-4-[3-(4-chloro-phenyl)-1H-pyrazol-4-yl]-pyrimidine in 5 mL of 1,4-dioxanes (Merck p.a. 9671) at rt is treated with 99 mg of 4-(4-methyl-piperazin-1-yl)-phenylamine (0,515 mMol, 1 Eq.) and 235 mg (2.06 mMol; 202 μl; 4 Eq.) of HCl (32%) (Fluka puriss 84416). The yellow suspension is stirred for 24 h at 100° C. After cooling to rt, the supernatant is decanted and discarded. The smeary residue is treated with 10 ml of NaHCO3 satd. solution and 10 ml of ethyl acetates. The precipitated crude product is filtered off and dried at 60° C. under reduced pressure. The combined organic layers are re-extracted with water, dried (Na2SO4), and evaporated to obtain additional crude product. The combined crude products are purified by means of column chromatography over silica gel (Si60 (0,040-0,063 mm) Merck); eluting with CH2Cl2/CH3OH/NH4OH (9:1:0.1). Final purification is done by suspending the obtained beige crystals in CH2Cl2/CH3OH (1:1) to obtain {4-[3-(4-chloro-phenyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine as pure crystals.

reactant | 2-chloro-4-[3-(4-chloro-phenyl)-1H-pyrazol-4-yl]-pyrimidine | 0.515 mMol, 150 mg | ClC1=NC=CC(=N1)C=1C(=NNC1)C1=CC=C(C=C1)Cl | C13H8Cl2N4
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 0,515 mMol, 99 mg, 1 Eq. | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
reactant | HCl | 2.06 mMol, 202 μl, 235 mg, 4 Eq. | Cl | ClH
product | {4-[3-(4-chloro-phenyl)-1H-pyrazol-4-yl]-pyrimidin-2-yl}-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | ClC1=CC=C(C=C1)C1=NNC=C1C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C | C24H24ClN7
